* BEGIN MODEL LMV796
*/////////////////////////////////////////////////////////////////////
*Rev.a August-2006
*//////////////////////////////////////////////////////////////////////
* (C) National Semiconductor, Corporation.
* Models developed and under copyright by:
* National Semiconductor, Corporation.  
*/////////////////////////////////////////////////////////////////////
* Legal Notice:  
* The model may be copied, and distributed without any modifications;
* however, reselling or licensing the material is illegal.
* We reserve the right to make changes to the model without prior notice. 
* Pspice Models are provided "AS IS, WITH NO WARRANTY OF ANY KIND" 
*////////////////////////////////////////////////////////////////////
*MODEL FEATURES INCLUDE OUTPUT SWING, OUTPUT CURRENT THRU
*THE SUPPLY RAILS, OUTPUT SWING VS IO, OUTPUT CURRENT LIMIT,
*OPEN LOOP GAIN AND PHASE, SLEW RATE, COMMON MODE REJECTION
*WITH FREQ EFFECTS, POWER SUPPLY REJECTION WITH FREQ EFFECTS,
*INPUT VOLTAGE NOISE WITH 1/F, INPUT CURRENT NOISE, INPUT
*CAPACITANCE, INPUT BIAS CURRENT, INPUT COMMON MODE RANGE,
*INPUT OFFSET, HIGH CLOAD EFFECTS, QUIESCENT CURRENT, AND
*QUISCENT CURRENT VS VOLTAGE.
*//////////////////////////////
*MODEL TEMP RANGE IS -55 TO +125 DEG C.
*NOTE THAT MODEL IS FUNCTIONAL OVER THIS RANGE BUT NOT ALL
*PARAMETERS TRACK THOSE OF THE REAL PART.
*//////////////////////////////
* PINOUT ORDER +IN -IN +V -V OUT
* PINOUT ORDER  3   4   6  2  1
.SUBCKT LMV796 3 4 6 2 1
Q12 7 8 9 QP
Q13 10 10 11 QP
Q14 12 12 10 QP
Q15 9 13 11 QP
Q17 14 9 15 QOP
Q18 16 16 17 QN
Q19 17 17 18 QN
Q20 7 19 20 QN
Q21 21 7 22 QON
Q22 9 16 7 QN
R10 19 22 100
R11 13 15 100
R12 15 6 3
R13 2 22 30
G1 7 20 23 24 -2E-4
R16 23 25 300
C2 25 1 20E-12
R17 8 12 3
R18 20 18 30
D5 1 6 DD
D6 2 1 DD
E2 20 0 2 0 1
E3 11 0 6 0 1
I12 6 2 1E-6
R22 26 6 13E3
G4 23 24 27 28 2E-3
R40 23 24 2E6
E14 24 20 11 20 0.5
D11 23 11 DD
D12 20 23 DD
C11 1 0 0.5E-12
R41 21 1 30
R42 1 14 3
Q23 9 29 11 QP
Q24 16 30 11 QP
Q25 7 31 20 QN
Q26 8 32 20 QN
Q33 33 34 11 QP
R45 35 36 12
R46 37 36 12
R47 38 39 300
R49 20 27 300
R50 20 28 300
R51 40 41 300
Q35 42 42 43 QP
Q36 41 41 42 QP
Q37 43 43 44 QN
Q38 44 44 41 QN
D13 43 11 DD
D14 41 11 DD
D15 45 46 DD
D16 45 41 DD
V9 43 46 0
V10 39 46 -62E-6
D17 47 0 DIN
D18 48 0 DIN
I14 0 47 0.1E-3
I15 0 48 0.1E-3
C13 38 0 1.5E-12
C14 4 0 1.5E-12
D19 49 0 DVN
D20 50 0 DVN
I16 0 49 0.1E-3
I17 0 50 0.1E-3
E15 40 4 49 50 1.24
G5 38 40 47 48 2.8E-8
E16 51 0 11 0 1
E17 52 0 20 0 1
E18 53 0 54 0 1
R56 51 55 1E6
R57 52 56 1E6
R58 53 57 1E6
R59 0 55 100
R60 0 56 100
R61 0 57 100
E19 58 3 57 0 20E-3
R62 59 54 1E3
R63 54 60 1E3
C15 51 55 1E-12
C16 52 56 1E-12
C17 53 57 1E-12
E20 61 58 56 0 0.3
E21 38 61 55 0 -0.3
C19 27 28 20E-12
M1 28 46 35 35 MIP L=2U W=350U
M2 27 41 37 37 MIP L=2U W=350U
G6 34 11 62 0 4E-6
G7 29 11 62 0 3.4E-7
G8 30 11 62 0 1.45E-7
G9 20 31 62 0 1.7E-7
G10 20 32 62 0 7.25E-8
R64 0 62 1E12
E49 63 24 62 0 30
E50 64 23 62 0 -30
V50 65 64 15
V51 66 63 -15
R128 63 0 1E12
R129 64 0 1E12
M42 23 66 24 67 PSW L=1.5U W=150U
M43 24 65 23 68 NSW L=1.5U
R130 67 0 1E12
R131 68 0 1E12
R132 1 23 500E6
M45 69 5 11 11 PEN L=2U W=100U
M46 69 5 20 20 NEN L=2U W=100U
M47 62 70 0 0 NEN L=2U W=10000U
R133 62 71 1E6
V52 71 0 1
M48 70 72 0 0 NEN L=2U W=100U
R134 70 71 1E4
M49 72 69 0 0 NEN L=2U W=100U
R135 72 71 1E4
C20 71 72 2E-12
C21 71 70 110E-12
M50 26 73 2 2 NEN L=2U W=100U
G11 6 2 62 0 0.76E-3
E51 73 2 62 0 2
I18 0 38 1.5E-12
I19 0 4 1.5E-12
V53 45 20 0
V54 33 36 0.18
G12 38 40 74 0 1E-6
R136 0 74 12E3
R137 0 74 12E3
R138 3 58 1E9
R139 58 61 1E9
R140 61 38 1E9
R141 2 73 1E9
E54 60 0 38 0 1
E55 59 0 40 0 1
C23 38 40 0.25E-12
R142 5 6 1E6
.MODEL QON NPN VAF=40
.MODEL QOP PNP VAF=40
.MODEL MIP PMOS KP=600U VTO=-0.7
.MODEL DD D
.MODEL QN NPN
.MODEL QP PNP
.MODEL DVN D KF=5E-16
.MODEL DIN D KF=8E-17
.MODEL PSW PMOS KP=200U VTO=-7.5 IS=1E-18
.MODEL NSW NMOS KP=200U VTO=7.5 IS=1E-18
.MODEL PEN PMOS KP=200U VTO=-0.5 IS=1E-18
.MODEL NEN NMOS KP=200U VTO=0.5 IS=1E-18
.ENDS
* END MODEL LMV796

